US07906528B2
To a solution of 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester (220 mg, 0.47 mmol, prepared by the procedure described in Example 11, Step 5) in DCM (4 mL) at −78° C., DIBAL (1M solution in toluene, 2.35 mL, 2.3 mmol) is added, and the mixture is stirred at −78° C. for 3 h. Reaction is warmed up to room temperature, and a saturated aqueous Rochelle's salt solution (6 mL) is carefully added. Stirring is continued for another 1 hour. The organic layer is separated, and the aqueous phase is extracted with DCM. The combined organic solutions are washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Chromatography of the residue affords 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propan-1-ol as a colorless oil. 1H NMR: (CDCl3) 8.97 (s, 1H), 7.49 (s, 1H), 7.48 (d, J=12 Hz, 2H), 7.42 (d, J=10 Hz, 2H), 7.32 (s, 1H), 7.27 (t, J=10 Hz, 1H), 7.15 (d, 12 Hz, 2H), 3.76 (t, J=6 Hz, 2H), 3.01 (m, 1H), 2.89 (t, J=6 Hz, 2H), 2.35 (m, 4H), 2.01 (m, 2H), 1.33 (d, J=10 Hz, 6H), 1.073 (t, J=10 Hz, 6H); LCMS m/z 427.32 (2.32 min).

reactant | 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C)=O | C31H36N2O2
reactant | DIBAL | 2.3 mmol, 1M, 2.35 mL | CC(C)C[AlH]CC(C)C
reactant | Rochelle's salt | 6 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-propan-1-ol | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2CCCO)C2=CC=C(C=C2)C(C)C | C29H34N2O
